US05998436
Synthesis of 1-(6-amino-5-fluoropyridin-2-yl)-8-bromo-6-fluoro-7-(3-methylaminoazetidin-1-yl ) -4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To 250 mg of N,N-dimethylformamide were added 80 mg of 1-(6-amino-5-fluoropyridin-2-yl)-8-bromo-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid, 80 mg of 3-methylaminoazetidine dihydrochloride, and 200 mg of N-methylpyrrolidine, and the mixture was stirred at 85° C. for 10 minutes. After adding 0.5 ml of ethanol, the solution was allowed to cool, and the precipitate was collected by filtration and washed with ethanol and diisopropylether successively to obtain 66 mg of the title compound as a colorless powder.

reactant | N,N-dimethylformamide | 250 mg | CN(C=O)C | C3H7NO
reactant | 1-(6-amino-5-fluoropyridin-2-yl)-8-bromo-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 80 mg | NC1=C(C=CC(=N1)N1C=C(C(C2=CC(=C(C(=C12)Br)F)F)=O)C(=O)O)F | C15H7BrF3N3O3
reactant | 3-methylaminoazetidine dihydrochloride | 80 mg | Cl.Cl.CNC1CNC1
reactant | N-methylpyrrolidine | 200 mg | CN1CCCC1 | C5H11N
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | 1-(6-amino-5-fluoropyridin-2-yl)-8-bromo-6-fluoro-7-(3-methylaminoazetidin-1-yl ) -4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 66 mg | NC1=C(C=CC(=N1)N1C=C(C(C2=CC(=C(C(=C12)Br)N1CC(C1)NC)F)=O)C(=O)O)F | C19H16BrF2N5O3
